US04820834
1,3-Dihydro-3(RS)-(2-naphthoylamino)-5-phenyl-2H-1,4-benzodiazepin-2-one
The procedure of Example 134 was carried out using 3(RS)-amino-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one (39.2 mg, 0.156 mmole) in place of 1,3-dihydro-3(RS)-amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one and 2-naphthoyl chloride (29.7 mg, 0.156 mmole) in place of p-trifluoromethylbenzoyl chloride. The product was chromatographed on silica gel (15% (v/v) Et2O in CH2Cl2 elution). The combined product fractions were evaporated to dryness in vacuo and crystallized from CH2Cl2 /EtOAc to give the title compound which was dried in vacuo at 82° C.: (m.p. 293°-294° C.).

reactant | 3(RS)-amino-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.156 mmole, 39.2 mg | NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C15H13N3O
reactant | 2-naphthoyl chloride | 0.156 mmole, 29.7 mg | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | 1,3-Dihydro-3(RS)-(2-naphthoylamino)-5-phenyl-2H-1,4-benzodiazepin-2-one | C1=C(C=CC2=CC=CC=C12)C(=O)NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C26H19N3O2
